US07071175B1
A solution of KOH (0.26 g; 4.6 mmol) in ethanol (7 mL) was added to a solution of 2-(1-tert-butoxycarbonyl-pyrrolidin-3-ylmethyl)-malonic acid diethyl ester (1.52 g; 4.4 mmol) in ethanol (7 mL) at 0° C. The reaction mixture was stirred at room temperature overnight, concentrated under reduced pressure and the residue was dissolved in water (500 mL). The aqueous layer was washed with diethyl ether, acidified to pH. 3 by 0.5 M HCl, and extracted with diethyl ether. The organic phase was dried and concentrated under reduced pressure to yield 2-(1-tert-butoxycarbonyl-pyrrolidin-3-ylmethyl)-malonic acid monoethyl ester (1.13 g, 81%).

reactant | KOH | 4.6 mmol, 0.26 g | [OH-].[K+]
reactant | 2-(1-tert-butoxycarbonyl-pyrrolidin-3-ylmethyl)-malonic acid diethyl ester | 4.4 mmol, 1.52 g | C(C)OC(C(C(=O)OCC)CC1CN(CC1)C(=O)OC(C)(C)C)=O | C17H29NO6
solvent | ethanol | 7 mL | C(C)O | C2H6O
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 2-(1-tert-butoxycarbonyl-pyrrolidin-3-ylmethyl)-malonic acid monoethyl ester | 1.13 g, 81% | C(C)OC(C(C(=O)O)CC1CN(CC1)C(=O)OC(C)(C)C)=O | C15H25NO6
